US05565469
4'-[(2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-trifluoroacetylamino-biphenyl
0.5 g of trifluoroacetic acid anhydride are added dropwise at -50° C. to 0.5 g of 4'-[(2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-amino-biphenyl in 25 ml of dichloromethane and 0.5 ml of triethylamine. The mixture is then heated to ambient temperature and stirred for 4 hours at this temperature. It is then washed with water, dried over sodium sulphate and concentrated by evaporation. After chromatography on silica gel with dichloromethane/ethanol (50:1), 0.4 g are obtained, melting point 115°-120° C.

reactant | trifluoroacetic acid anhydride | 0.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4'-[(2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-amino-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)N)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C32H31N5
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 4'-[(2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-trifluoroacetylamino-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)NC(C(F)(F)F)=O)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C34H30F3N5O
